US05767131
1-(3-Aminopropyl)-4-benzylpiperidine
To a stirred solution of 3-(4-benzylpiperidin-1-yl)propionitrile (8.20 g, 35.9 mmol, 1.0 equiv) in anhydrous THF (20 mL) under argon was added a solution of BH3 in THF (1.0M, 126 mL, 3.5 equiv) at room temperature. The mixture was refluxed for 4.5 hours, then cooled to room temperature and concentrated to a volume of about 30 mL. Aqueous HCl (6 N, 80 mL) was added and stirring was continued for 2 hours at 55°-60° C. The mixture was basified to pH 9 by addition of 6N aq. NaOH and extracted with CH2Cl2 (3×150 mL). The combined organic solutions were dried over MgSO4 and concentrated. The residue was dissolved in CH2Cl2 (20 mL) and treated with HCl in ether (1.0M, 75 ml, 2.1 equiv). The solvents were removed, ether (60 mL) was added, the mixture was filtered, and the filter cake was washed with ether (2×30 mL). Water (40 mL) was added to the resulting white solid, the pH was adjusted to 10 with 1M NaOH, and the aqueous phase was extracted with CH2 Cl2 (3×80 mL). The combined organic solutions were dried over MgSO4 and concentrated to give 7.59 g (91%) of colorless oil, which was characterized spectroscopically.

reactant | 3-(4-benzylpiperidin-1-yl)propionitrile | 35.9 mmol, 8.20 g, 1.0 equiv | C(C1=CC=CC=C1)C1CCN(CC1)CCC#N | C15H20N2
reactant | HCl | Cl | ClH
reactant | ether | 1.0M, 75 ml, 2.1 equiv | CCOCC | C4H10O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 1.0M, 126 mL, 3.5 equiv | C1CCOC1 | C4H8O
product | 1-(3-Aminopropyl)-4-benzylpiperidine | 7.59 g, 91% | NCCCN1CCC(CC1)CC1=CC=CC=C1 | C15H24N2
